US05059610
3-Methylcarboethoxy-5-(4-(3-(2-Quinolinylmethyloxy)Phenoxymethyl)Phenyl)Tetrazole
To a solution of 0.2 g sodium in 30 ml ethanol is first added 1 g of 5-(4-(3-(2-quinolinylmethyloxy)phenoxymethyl)phenyl)tetrazole and then after 30 minutes 0.6 g of ethylbromoacetate and stirring is continued at 80° C. for 16 hours. The solvent is then removed, diluted with water, filtered, washed with ether and dried to give the desired compound, also referred to as ethyl 5-(4-(3-(2-quinolinylmethyloxy)phenoxymethyl)phenyl)tetrazole-3-yl acetate.

reactant | sodium | 0.2 g | [Na] | Na
reactant | 5-(4-(3-(2-quinolinylmethyloxy)phenoxymethyl)phenyl)tetrazole | 1 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(OCC2=CC=C(C=C2)C2=NN=NN2)C=CC1 | C24H19N5O2
reactant | ethylbromoacetate | 0.6 g | C(C)OC(CBr)=O | C4H7BrO2
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | 3-Methylcarboethoxy-5-(4-(3-(2-Quinolinylmethyloxy)Phenoxymethyl)Phenyl)Tetrazole | CCCOC(=O)N1N=NC(=N1)C1=CC=C(C=C1)COC1=CC(=CC=C1)OCC1=NC2=CC=CC=C2C=C1 | C28H25N5O4
